.SUBCKT OAOI211X0P5H7R A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I Y:O VDD:B VSS:B
MMM7 Y C0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM3 net10 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM2 net10 A1 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM8 Y B0 net10 VSS nm1p2_svt_lp W=150n L=60n m=1
MPM0 Y C0 net26 VDD pm1p2_svt_lp W=190n L=60n m=1
MMM5 net26 A0 net29 VDD pm1p2_svt_lp W=190n L=60n m=1
MMM0 net29 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMM4 net26 B0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
.ENDS
